** sch_path: /workspaces/usm-vlsi-tools/shared_xserver/SSTADEx/test/Tesis_notebooks/xschem/ota_1stage_rout.sch
**.subckt ota_1stage_rout
Rdiff_2 net1 vs 1 m=1
Gdiff_2 net1 vs vneg vs 1
Rdiff_1 vout vs 1 m=1
Gdiff_1 vout vs vpos vs 1
V1 vdd vss 1.8
V_n vneg vss 1
V_p vpos vss 1
Raload_1 vdd vout 1 m=1
Gaload_1 vout vdd net1 vdd 1
Gaload_2 net1 vdd net1 vdd 1
Raload_2 vdd net1 1 m=1
Vr vr vss 0.9
Rr vout vr 1000 m=1
I2 vs vss 1
**.ends
.end